US07169778B2
6. 4-(Cyclopentylamino)-2-[(pyridin-4-yl)amino]-5-nitropyrimidine
A mixture of 0.64 g (3 mmol) of 2-chloro-4-(cyclopentylamino)-5-nitropyrimidine and 0.62 g (6.6 mmol) of 4-aminopyridine in 5 mL of DMSO is stirred at room temperature for 15 minutes. The solution is diluted with water and basified with aqueous ammonia to give 0.41 g (44%) of the title compound: mp (EtOH) 219–221° C.

reactant | 2-chloro-4-(cyclopentylamino)-5-nitropyrimidine | 3 mmol, 0.64 g | ClC1=NC=C(C(=N1)NC1CCCC1)[N+](=O)[O-] | C9H11ClN4O2
reactant | 4-aminopyridine | 6.6 mmol, 0.62 g | NC1=CC=NC=C1 | C5H6N2
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
solvent | ammonia | N | H3N
product | 4-(Cyclopentylamino)-2-[(pyridin-4-yl)amino]-5-nitropyrimidine | 0.41 g, 44% | C1(CCCC1)NC1=NC(=NC=C1[N+](=O)[O-])NC1=CC=NC=C1 | C14H16N6O2
